US08865726B2
To the solid (S)-4-phenyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.80 g, 1.4 mmol) was added TFA (20 mL) and the reaction stirred at room temperature for 3 hours. The reaction was concentrated and the residue slurried in methanol/acetonitrile (20 mL 1:1) and water (20 mL) added and the reaction stirred at ambient temperature for 1 hour. The organic solvents were removed in vacuo and the water layer basified to about pH 7 using a solution of saturated NaHCO3. The aqueous layer was then stirred for 5 minutes. The solids were filtered and dried in vacuo. The solids were then taken up in water and stirred for 2 hours. The solids were filtered and dried in vacuo. The solids were next slurried in methanol while nitrogen was bubbled through the solution for 2 hours. The slurry was concentrated to about 20 mL, and the solids filtered and dried in vacuo to give (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one (0.19 g, 0.45 mmol, 31% yield). LCMS (APCI+) m/z 424 [M+H]+.

reactant | (S)-4-phenyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 1.4 mmol, 0.80 g | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C | C29H31N7O3Si
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one | 0.45 mmol, 0.19 g, 31% yield | N1N=C(N=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=CC=C2)=O | C23H17N7O2
